US08076492B2
Preparation of Olmesartan Medoxomil
To dimethyl acetamide (800 ml) was added 4-(1-hydroxy-1-methylethyl)-2-propyl imidazol-5-carboxylic acid ethyl ester (100 gms) and powdered potassium carbonate (200 gms). To this was charged 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide (300 gms) at 45-50° C. The contents were stirred for 8-10 hours at 45-50° C. The insolubles were filtered. The contents were cooled to 5-10° C. Potassium tertiary butoxide (100 gms) was charged at a temperature below 45° C. The reaction was maintained at 40-45° C. for 3 hrs. To this was slowly added 5-methyl-2-oxo-1,3-dioxane-4-yl)methyl chloride at 40-45° C. over a period of 1 hour. The contents were heated to 60-65° C. and maintained for 4 hours. The reaction mass was then cooled to 30-35° C. and was neutralized with concentrated hydrochloride acid. The reaction mass was filtered to remove inorganics. The reaction mass was charcoalized using charcoal (10 gms) and was stirred for 30 minutes at 40-45° C. The reaction mass was filtered over hyflo. The clear filtrate was acidified with hydrochloric acid (100 ml) slowly at 25-30° C. The contents were stirred at 60° C. for 1 hour. The reaction mass was chilled to 0-5° C. and was filtered to remove tritanol. The reaction mass was concentrated under reduced pressure. The residue was quenched with water (500 ml), neutralized with base and extracted in dichloromethane (500 ml). The clear dichloromethane extract was then concentrated under reduced pressure, stripped off with acetone. The residue thus obtained was isolated from the acetone (250 ml) to give 55 gms of the title compound. Chromatographic purity->99%.

reactant | dimethyl acetamide | 800 ml | CC(=O)N(C)C | C4H9NO
reactant | 4-(1-hydroxy-1-methylethyl)-2-propyl imidazol-5-carboxylic acid ethyl ester | 100 gms | C(C)OC(=O)C1=C(N=C(N1)CCC)C(C)(C)O | C12H20N2O3
reactant | potassium carbonate | 200 gms | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 300 gms | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | Olmesartan Medoxomil | 55 gms | CCCC1=NC(=C(N1CC=2C=CC(=CC2)C=3C=CC=CC3C=4NN=NN4)C(=O)OCC5=C(OC(=O)O5)C)C(C)(C)O | C29H30N6O6
